US05318966
A suspension of 2.00 g (0.0067 mol) of (+)-cis-3-(2-cyclohexylethyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol in 100 ml of acetonitrile was treated with 1.9 ml (0.013 mol) of triethylamine and 1.6 ml (0.027 mol) of methyl isocyanate. The mixture was boiled under reflux for 5 hours and the poured into aqueous sodium hydrogen carbonate solution, whereupon the mixture was extracted with methylene chloride. After drying the organic phase with sodium sulphate and distillation of the solvent the residue was chromatographed over silica gel with methylene chloride/methanol 20:1. The oil obtained was dissolved in ethanol and treated with an equimolar amount of ethanolic HCl. After concentration the residue was dissolved in methylene chloride, treated with active charcoal and sodium sulphate, filtered and the solvent was distilled off. The residue was suspended in ethyl acetate, filtered off and dried in a vacuum. There were obtained 1.58 g (60%) of (+)-cis-3-(2-cyclohexylethyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-yl methylcarbamate hydrochloride with m.p. 209°-212°.

reactant | (+)-cis-3-(2-cyclohexylethyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol | 0.0067 mol, 2.00 g | C1(CCCCC1)CCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O | C20H29NO
reactant | triethylamine | 0.013 mol, 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 0.027 mol, 1.6 ml | CN=C=O | C2H3NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | HCl | Cl | ClH
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | ethanol | C(C)O | C2H6O
product | (+)-cis-3-(2-cyclohexylethyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-yl methylcarbamate hydrochloride | 1.58 g, 60% | Cl.CNC(OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCC2CCCCC2)=O | InChI=1S/C22H32N2O2.ClH/c1-23-22(25)26-21-9-5-8-17-18-13-15-24(20(18)11-10-19(17)21)14-12-16-6-3-2-4-7-16;/h5,8-9,16,18,20H,2-4,6-7,10-15H2,1H3,(H,23,25);1H/t18-,20+;/m1./s1
